US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(3-pyridyl)isoxazole
3-Hydroxy-5-(3-pyridyl)isoxazole (0.41 g) and 2-(N-tert-butoxycarbonylamino)ethanol (0.40 g) were subjected to reaction and post-treatment in a similar manner to that described in Example 1(a) to obtain the title compound (0.50 g, 65%) as colorless crystals.

reactant | 3-Hydroxy-5-(3-pyridyl)isoxazole | 0.41 g | OC1=NOC(=C1)C=1C=NC=CC1 | C8H6N2O2
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 0.40 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(3-pyridyl)isoxazole | 0.50 g, 65% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C=1C=NC=CC1 | C15H19N3O4
